US04215123
1-Ethyl-1,2-dihydro-4-hydroxy-7-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester
To a solution of 3.98 g. (0.02 mole) of 2-ethylamino-6-methylnicotinic acid methyl ester in 50 ml. of anhydrous diethyl ether was added 1.5 g. (0.01 mole) of ethyl malonyl chloride. The mixture was stirred at room temperature for 1 hour. The mixture was filtered and the filtrate was evaporated in a rotary evaporator. The residue was added to a solution of 0.23 g. of sodium in 50 ml. of absolute ethanol and was warmed for 5 minutes. The mixture was cooled and the insoluble material was collected and was dissolved in water. Acidification of the water solution with glacial acetic acid afforded a precipitate which was collected, air dried and was recrystallized from heptane to give 1.2 g. of product, m.p. 147°-151° C.

reactant | 2-ethylamino-6-methylnicotinic acid methyl ester | 0.02 mole | COC(C1=C(N=C(C=C1)C)NCC)=O | C10H14N2O2
reactant | ethyl malonyl chloride | 0.01 mole | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | diethyl ether | C(C)OCC | C4H10O
product | 1-Ethyl-1,2-dihydro-4-hydroxy-7-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=NC(=CC=C2C1O)C)CC)=O | C14H16N2O4
